US06696437B1
c) Methyl 2-Amino-3-(1-(2-(N,N-diethylamino)eth-1-yl)benzimidazole-5-carboxamido)benzoate
To 3.3 g (9.9 mmol) of the product 4b in 100 ml of anhydrous dimethylformamide at room temperature were successively added 1.6 g (9.9 mmol) of methyl 2,3-diaminobenzoate, 0.44 g (3.3 mmol) of N-hydroxybenzotriazole (HOBT) and 6.2 ml (44.4 mmol) of triethylamine. Then, at 15° C., 1.9 g (9.9 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide (EDC) were added in portions. The mixture was stirred at room temperature for 16 hours. The reaction mixture was then concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The aqueous phase was separated off, made alkaline with aqueous sodium bicarbonate solution and extracted with ethyl acetate. This organic phase was separated off, treated with active carbon, filtered, dried and concentrated in vacuo. 1.5 g of the product were obtained as an isomer mixture.

reactant | methyl 2,3-diaminobenzoate | 9.9 mmol, 1.6 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | N-hydroxybenzotriazole | 3.3 mmol, 0.44 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 44.4 mmol, 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 9.9 mmol, 1.9 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Methyl 2-Amino-3-(1-(2-(N,N-diethylamino)eth-1-yl)benzimidazole-5-carboxamido)benzoate | 1.5 g | NC1=C(C(=O)OC)C=CC=C1NC(=O)C1=CC2=C(N(C=N2)CCN(CC)CC)C=C1 | C22H27N5O3
